US07691882B2
3-(3-(3-Fluoro-4-(pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a methanol (20.0 mL) solution of 2-(2-fluoro-4-(2-nitro-ethyl)-phenoxy)pyridine (500 mg, 1.81 mmol) described in Manufacturing Example 87-1-3 was added lithium methoxide (137 mg, 3.61 mmol) under nitrogen atmosphere at room temperature, which was stirred for 30 minutes at room temperature. The solvent was evaporated from the reaction mixture under a reduced pressure, and anhydrous dichloromethane (15.0 mL) and anhydrous tetrahydrofuran (7.00 mL) were added to the residue. Titanium (IV) chloride (656 μL, 5.97 mmol) was added dropwise into the reaction mixture on a dry ice-ethanol bath (−78° C.), which was stirred for 30 minutes at that temperature. Sodium hydrogencarbonate and ethyl acetate were added to the reaction mixture on an ice cooling (0° C.), which was then filtered through a Celite pad. The organic layer of the filtrate was extracted with ethyl acetate, and that organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain a crude product (300 mg). To a tetrahydrofuran (5.00 mL) solution of this crude product (150 mg) and 3-ethynyl-pyridin-2-ylamine (30.0 mg, 0.254 mmol) described in Manufacturing Example 1-2-3 was added triethylamine (106 μL, 0.762 mmol) at room temperature, which was stirred for 30 minutes at 50° C. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:1), the mixture was further purified by reverse-phase high-performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoracetic acid) to obtain the title compound (6.9 mg, 4.49%) as a ditrifluoracetic acid salt.

reactant | 2-(2-fluoro-4-(2-nitro-ethyl)-phenoxy)pyridine | 1.81 mmol, 500 mg | FC1=C(OC2=NC=CC=C2)C=CC(=C1)CC[N+](=O)[O-] | C13H11FN2O3
reactant | lithium methoxide | 3.61 mmol, 137 mg | C[O-].[Li+]
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 3-ethynyl-pyridin-2-ylamine | 0.254 mmol, 30.0 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 0.762 mmol, 106 μL | C(C)N(CC)CC | C6H15N
catalyst | Titanium (IV) chloride | 5.97 mmol, 656 μL | [Ti](Cl)(Cl)(Cl)Cl
solvent | Water | O | H2O
solvent | tetrahydrofuran | 5.00 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20.0 mL | CO | CH4O
product | 3-(3-(3-Fluoro-4-(pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 6.9 mg, 4.49% | FC=1C=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=CC1OCC1=NC=CC=C1 | C21H17FN4O2
